US05532243
Trans-2-Benzoyl-6-hydroxy-6-(4-t-butyldimethylsilyloxy-phenyl)-decahydroisoquinoline
A mixture of 1-bromo-4-t-butyldimethylsilyloxy-benzene (1.7 g, 3.9 mmol), magnesium mesh (0.1 g, 3.9 mmol) and anhydrous THF were stirred at reflux temperature under a nitrogen atmosphere for 2 h. The reaction mixture was cooled to room temperature and transferred via syringe to a stirred semi-solution of trans-2-benzoyl-6-oxodecahydroisoquinoline (1.0 g, 3.9 mmol) in anhydrous THF at -78° C. The reaction mixture was warmed gradually to ambient temperature over 17.5 h. The reaction mixture was poured onto a saturated ammonium chloride solution, mixed, basified with a 1N NaOH solution and extracted three times with ethyl acetate. The combined organic layers were dried over magnesium sulfate, filtered and concentrated in vacuo. Column chromatography (ethyl acetate) gave the product, a solid (747 mg): mp 103°-104° C.; NMR (CDCl3, 300 MHz): 7.5-7.3 (m, 7H), 6.85 (dd, 2H, J=8, 6), 4.9-4.6 (m, 1H), 3.9-3.55 (m, 1H), 3.1-2.4 (m, 2H), 1.9-1.0 (m, 9H), 0.95 (s, 9H), 0.25 (s, 3H), 0.2 (s, 3H); HRMS: Calcd: 465.2700, Found: 465.2689; Anal. Calcd for C28H39NO3Si: C, 72.23, H, 8.44, N, 3.01; Found: C, 71.99, H, 8.61, N, 2.87.

reactant | 1-bromo-4-t-butyldimethylsilyloxy-benzene | 3.9 mmol, 1.7 g | BrC1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C | C12H19BrOSi
reactant | magnesium | [Mg] | Mg
reactant | trans-2-benzoyl-6-oxodecahydroisoquinoline | 3.9 mmol, 1.0 g | C(C1=CC=CC=C1)(=O)N1C[C@@H]2CCC(C[C@H]2CC1)=O | C16H19NO2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | Trans-2-Benzoyl-6-hydroxy-6-(4-t-butyldimethylsilyloxy-phenyl)-decahydroisoquinoline | C(C1=CC=CC=C1)(=O)N1C[C@@H]2CCC(C[C@H]2CC1)(C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)O | C28H39NO3Si
